US07176216B2
tert-Butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate
To a solution of 7-bromo-2-ethylpyrazolo[1,5-a]pyridine-3-amine (1.16 g) in dichloromethane (50 mL) was added triethylamine (1.01 mL) and di-tert-butyl dicarbonate (1.34 mL) at room temperature, and the reaction mixture was stirred for 15 hours. After completion of the reaction, the solvent was evaporated under reduced pressure. Ethyl acetate was added to the residue, and the obtained organic extract was washed with water and brine, and dried over anhydrous magnesium sulfate and filtered, then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (60 g) and the title compound (1.09 g) was obtained as hazel crystals from the ethyl acetate:n-hexane (1:3) fraction.

reactant | 7-bromo-2-ethylpyrazolo[1,5-a]pyridine-3-amine | 1.16 g | BrC1=CC=CC=2N1N=C(C2N)CC | C9H10BrN3
reactant | triethylamine | 1.01 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.34 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-Butyl N-(7-bromo-2-ethylpyrazolo[1,5-a]pyridin-3-yl)carbamate | 1.09 g | BrC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)CC | C14H18BrN3O2
